US07351825B2
(1R*,2R*,3R*)-1-amino-2-methoxymethyl-3-phenyl-cyclopropanecarboxylic acidmethoxy-methyl-amide hydrochloride (step 5-4)
[(1R*,2R*,3R*)-2-methoxymethyl-1-(methoxy-methyl-carbamoyl)-3-phenyl-cyclopropyl]-carbamic acid t-butyl ester (25 mg, 0.69 mmol) was dissolved in 4 mL of HCl in dioxane (4M). After stirring at room temperature for 1 hour, the solution was concentrated and dried under high vacuum to afford 100% of an HCl salt product.

reactant | [(1R*,2R*,3R*)-2-methoxymethyl-1-(methoxy-methyl-carbamoyl)-3-phenyl-cyclopropyl]-carbamic acid t-butyl ester | 0.69 mmol, 25 mg | C(C)(C)(C)OC(N[C@]1([C@@H]([C@@H]1C1=CC=CC=C1)COC)C(N(C)OC)=O)=O | C19H28N2O5
reactant | HCl | 4 mL | Cl | ClH
solvent | dioxane | 4M | O1CCOCC1 | C4H8O2
product | (1R*,2R*,3R*)-1-amino-2-methoxymethyl-3-phenyl-cyclopropanecarboxylic acidmethoxy-methyl-amide hydrochloride | 100% | Cl.CON(C(=O)[C@@]1([C@@H]([C@@H]1C1=CC=CC=C1)COC)N)C | InChI=1S/C14H20N2O3.ClH/c1-16(19-3)13(17)14(15)11(9-18-2)12(14)10-7-5-4-6-8-10;/h4-8,11-12H,9,15H2,1-3H3;1H/t11-,12+,14+;/m1./s1
